US07462634B2
v. Preparation of tert-Butyl [6-({[2-(4-cyanophenyl)-4-methyl-1,3-thiazol-5-yl]sulfonyl}-amino)-4-methylpyridin-2-yl]carbamate
A solution of tert-butyl (6-{[(2-bromo-4-methyl-1,3-thiazol-5-yl)sulfonyl]amino}-4-methylpyridin-2-yl)carbamate (0.96 g, 2.08 mmol, 1 equiv), 4-cyanophenylboronic acid (0.336 g, 2.29 mmol, 1.1 equiv), and cesium carbonate (2.03 g, 6.24 mmol, 3 equiv) in 2:1 dimethoxyethane/water (30 mL) was purged with nitrogen for 15 minutes. Dichloro[1,1′-bis(diphenylphosphine)ferrocene] palladium (II) chloride (0.068 g, 0.08 mmol, 0.04 equiv) was then added, and the resulting mixture was purged with nitrogen for another 15 minutes. The reaction was heated to 80° C. for 1 h. After cooling to 24° C., the solution was concentrated in vacuo (˜25 mm Hg). The resulting aqueous mixture was extracted ethyl acetate (60 mL). The collected organic was dried over anhydrous sodium sulfate, filtered, and concentrated. Purification by high performance flash chromatography (0→10% ethyl acetate in hexanes) provided the intermediate (0.334 g, 33%). 1H NMR (400 MHz, CDCl3), δ: 7.97 (d, J=8.3 Hz, 2H), 7.73 (d, J=8.3 Hz, 2H), 7.63 (br s, 1H), 7.43 (s, 1H), 6.90 (s, 1H), 2.65 (s, 3H), 2.32 (s, 3H), 1.50 (s, 9H); LRMS (ESI) m/z: 486.1.

reactant | tert-butyl (6-{[(2-bromo-4-methyl-1,3-thiazol-5-yl)sulfonyl]amino}-4-methylpyridin-2-yl)carbamate | 2.08 mmol, 0.96 g, 1 equiv | BrC=1SC(=C(N1)C)S(=O)(=O)NC1=CC(=CC(=N1)NC(OC(C)(C)C)=O)C | C15H19BrN4O4S2
reactant | 4-cyanophenylboronic acid | 2.29 mmol, 0.336 g, 1.1 equiv | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
reactant | cesium carbonate | 6.24 mmol, 2.03 g, 3 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethoxyethane water | 30 mL | C(OC)COC.O
product | tert-Butyl [6-({[2-(4-cyanophenyl)-4-methyl-1,3-thiazol-5-yl]sulfonyl}-amino)-4-methylpyridin-2-yl]carbamate | 0.334 g, 33% | C(#N)C1=CC=C(C=C1)C=1SC(=C(N1)C)S(=O)(=O)NC1=CC(=CC(=N1)NC(OC(C)(C)C)=O)C | C22H23N5O4S2
